US05719141
d) 3-[N-Tert-butoxycarbonyl-4(S)-[4-hydroxy-2(S)-methylbutyl]-2,2-dimethyl-1,3-oxazolidin-5(S)-yl]-2(R)-methyl-propionic acid (N-butyl)amide
475 mg of 3-[N-tert-butoxycarbonyl-4(S)-[4-triisopropylsilyloxy-2(S)-methylbutyl]-2,2-dimethyl-1,3-oxazolidin-5(S)-yl]-2(R)-methyl-propionic acid (N-butyl)amide, dissolved in 12 ml of tetrahydrofuran, are stirred together with 1.63 ml of a 1M tetrabutylammonium fluoride solution in tetrahydrofuran at room temperature for 3 h. The organic phase is washed with saturated sodium chloride solution, added over sodium sulfate and concentrated. The crude product is purified by FC over 50 g of silica gel (mobile phase H). The title compound is obtained as the pure diastereomer: Rf (H)=0.48.

reactant | 3-[N-tert-butoxycarbonyl-4(S)-[4-triisopropylsilyloxy-2(S)-methylbutyl]-2,2-dimethyl-1,3-oxazolidin-5(S)-yl]-2(R)-methyl-propionic acid (N-butyl)amide | 475 mg | C(CCC)NC([C@@H](C[C@H]1[C@@H](N(C(O1)(C)C)C(=O)OC(C)(C)C)C[C@@H](CCO[Si](C(C)C)(C(C)C)C(C)C)C)C)=O | C32H64N2O5Si
reactant | tetrabutylammonium fluoride | 1M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
product | 3-[N-Tert-butoxycarbonyl-4(S)-[4-hydroxy-2(S)-methylbutyl]-2,2-dimethyl-1,3-oxazolidin-5(S)-yl]-2(R)-methyl-propionic acid (N-butyl)amide | C(CCC)NC([C@@H](C[C@H]1[C@@H](N(C(O1)(C)C)C(=O)OC(C)(C)C)C[C@@H](CCO)C)C)=O | C23H44N2O5
